US09233104B2
A solution of 3-bromo-5-fluorobenzaldehyde (CI) (2.12 g, 10.42 mmol) in MeOH (200 mL) was added 1-methylpiperazine (2.3 mL, 20.84 mL). The pH was adjusted to 6 using HOAc and stirred for 1 h. NaCNBH3 (917 mg, 14.59 mmol) was added and stirred at room temperature overnight. The MeOH was removed under vacuum and the residue was partitioned between CHCl3 and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and evaporated under vacuum. The crude product was purified on a silica gel column (100% CHCl3→3:97 MeOH[7N NH3]:CHCl3) to produce 1-(3-bromo-5-fluorobenzyl)-4-methylpiperazine (CII) as a yellow oil (1.52 g, 5.29 mmol, 51% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 2.14 (s, 3H), 2.28-2.40 (m, 8H), 3.46 (s, 2H), 7.15-7.17 (m, 1H), 7.35 (s, 1H), 7.40-7.42 (m, 1H); ESIMS found C12H16BrFN2 m/z 287 (M+H).

reactant | 3-bromo-5-fluorobenzaldehyde | 10.42 mmol, 2.12 g | BrC=1C=C(C=O)C=C(C1)F | C7H4BrFO
reactant | 1-methylpiperazine | 2.3 mL | CN1CCNCC1 | C5H12N2
reactant | HOAc | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 14.59 mmol, 917 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 1-(3-bromo-5-fluorobenzyl)-4-methylpiperazine | 5.29 mmol, 1.52 g, 51% yield | BrC=1C=C(CN2CCN(CC2)C)C=C(C1)F | C12H16BrFN2
